US04289787
Following the procedure set out in Example 25, N-(4-phenylbutyl)piperidine was reacted with dimethyl sulfate to afford N-methyl-N-(4-phenylbutyl)piperidinium methanesulfonate. M.P. 54°-56° C.

reactant | N-(4-phenylbutyl)piperidine | C1(=CC=CC=C1)CCCCN1CCCCC1 | C15H23N
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | N-methyl-N-(4-phenylbutyl)piperidinium methanesulfonate | CS(=O)(=O)[O-].C[N+]1(CCCCC1)CCCCC1=CC=CC=C1 | InChI=1S/C16H26N.CH4O3S/c1-17(13-7-3-8-14-17)15-9-6-12-16-10-4-2-5-11-16;1-5(2,3)4/h2,4-5,10-11H,3,6-9,12-15H2,1H3;1H3,(H,2,3,4)/q+1;/p-1
